US04435425
(E) Preparation of: 1,1-Difluoro-2-benzylamino-4-amino-butane, dihydrochloride
A solution of N-(4,4-difluoro-3-benzylaminobutyl) phthalimide (0.585 g, 1.72 mM) prepared as in Step D in concentrated hydrochloric acid (50 ml) is heated at 110° C. for 15 hours. The solvent is evaporated in vacuo, and the residue is taken up in cold water (50 ml). The aqueous phase is filtered and concentrated in vacuo, washed three times with diethyl ether, and then evaporated to dryness. The oily residue is triturated several times with isopropanol. The solvent is removed in vacuo yielding a white foam: 0.490 g (quantitative yield) of the required compound.

reactant | N-(4,4-difluoro-3-benzylaminobutyl) phthalimide | 1.72 mM, 0.585 g | FC(C(CCN1C(C=2C(C1=O)=CC=CC2)=O)NCC2=CC=CC=C2)F | C19H18F2N2O2
reactant | hydrochloric acid | 50 ml | Cl | ClH
product | 1,1-Difluoro-2-benzylamino-4-amino-butane, dihydrochloride | 0.490 g, quantitative yield | Cl.Cl.FC(C(CCN)NCC1=CC=CC=C1)F | InChI=1S/C11H16F2N2.2ClH/c12-11(13)10(6-7-14)15-8-9-4-2-1-3-5-9;;/h1-5,10-11,15H,6-8,14H2;2*1H
